US07030267B2
To a solution of 1-cyano-2-isobutyl-cyclopropanecarboxylic acid methyl ester (13.0 g, 71.8 mmol) and cobaltous chloride hexahydrate (34.2 g, 144 mmol) in MeOH (800 mL) was added NaBH4 (27.2 g, 718 mmol) in portions. The black precipitate formed was stirred for 1 hour at room temperature and was quenched with 0.5N HCl (400 mL). After the black precipitate dissolved, excess of solvent was removed and aqueous layer was made alkaline by addition of 2N NaOH. The alkaline solution was added slowly to a solution of di-tert-butyldicarbonate (31.4 g, 144 mmol) in dichloromethane (600 mL). The reaction mixture was stirred at room temperature overnight and the organic layer was separated and washed with brine and dried (Na2SO4). Evaporation of excess of solvent followed by purification of the residue by column chromatography using hexanes/EtOAc (9:1) as an eluent gave 16 g (78%) of 1-(tert-butoxycarbonylamino-methyl)-2-isobutyl-cyclopropanecarboxylic acid methyl ester as a colorless oil: 1H NMR (300 MHz, CDCl3) δ 0.75 (m, 1H), 0.93 (t, J=6.5 Hz, 6H), 1.20–1.28 (m, 1H), 1.37 (dd, J=3.8, 8.5 Hz, 1H), 1.44 (s, 9H), 1.51–1.58 (m, 2H), 1.64–1.70 (m, 1H), 3.33–3.46 (m, 2H), 3.67 (s, 3H), 5.27 (m, 1H); 13C NMR (75 MHz, CDCl3) δ 21.1, 22.4, 22.9, 26.7, 28.6, 28.7, 28.9, 37.8, 40.2, 52.1, 79.1, 156.1, 175.8; MS (APCI) m/z 186 [M+H-100(Boc)]+.

reactant | 1-cyano-2-isobutyl-cyclopropanecarboxylic acid methyl ester | 71.8 mmol, 13.0 g | COC(=O)C1(C(C1)CC(C)C)C#N | C10H15NO2
reactant | NaBH4 | 718 mmol, 27.2 g | [BH4-].[Na+]
reactant | di-tert-butyldicarbonate | 144 mmol, 31.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 800 mL | CO | CH4O
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | 1-(tert-butoxycarbonylamino-methyl)-2-isobutyl-cyclopropanecarboxylic acid methyl ester | 16 g, 78% | COC(=O)C1(C(C1)CC(C)C)CNC(=O)OC(C)(C)C | C15H27NO4
